US07799781B2
Preparation of 6-ethyl-7-hydroxy-3-(4-methoxyphenyl)-4-oxo-chromene-2-carboxylic acid
Methyl 6-ethyl-7-hydroxy-3-(4-methoxyphenyl)-4-oxo-chromene-2-carboxylate (13.6 g, 41.73 mmol) was dissolved in acetone (200 ml). Then a 2N aqueous solution of Sodium hydroxide (62.59 ml, 125.19 mmol) was added at room temperature. The resulting mixture was stirred at room temperature over night. After the reaction was complete the mixture was acidified under cooling with concentrated hydrochloric acid to pH 2.5. A solid precipitated from the solution. The solid was filtered off, washed with water and diethyl ether and dried at 40° C. under vacuum to yield the title product as an off white solid (11.2 g quantitative). The material was used directly without further purification in the next step. Mass Spectrum: (M+H+) 341.25, (M+H−) 339.19.

reactant | Methyl 6-ethyl-7-hydroxy-3-(4-methoxyphenyl)-4-oxo-chromene-2-carboxylate | 41.73 mmol, 13.6 g | C(C)C=1C=C2C(C(=C(OC2=CC1O)C(=O)OC)C1=CC=C(C=C1)OC)=O | C20H18O6
reactant | Sodium hydroxide | 125.19 mmol, 62.59 ml | [OH-].[Na+]
reactant | hydrochloric acid | Cl | ClH
solvent | acetone | 200 ml | CC(=O)C | C3H6O
product | 6-ethyl-7-hydroxy-3-(4-methoxyphenyl)-4-oxo-chromene-2-carboxylic acid | C(C)C=1C=C2C(C(=C(OC2=CC1O)C(=O)O)C1=CC=C(C=C1)OC)=O | C19H16O6
